US05376681
5-Amino-2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydrobenzofuran
2,2,4,6,7-Pentamethyl-5-nitro-3-phenyl-2,3-dihydrobenzofuran (2.0 g, 6.4 mmol) was dissolved in ethanol (15 ml) and the solution was subjected to catalytic reduction using 5% palladium carbon (2.0 g) as a catalyst. After the catalyst was filtered off, the filtrate was concentrated. The residue was purified by column chromatography on silica gel (isopropyl ether) and then crystallized from hexane to obtain the desired compound (1.33 g, yield: 73.6%), m.p. 131°-132° C.

reactant | 2,2,4,6,7-Pentamethyl-5-nitro-3-phenyl-2,3-dihydrobenzofuran | 6.4 mmol, 2.0 g | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)[N+](=O)[O-])C)C | C19H21NO3
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium carbon | 2.0 g | [C].[Pd]
product | 5-Amino-2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydrobenzofuran | 1.33 g, yield: 73.6% | NC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=CC=C2)C1C)C)C | C19H23NO
